US08076488B2
Preparation of 4-(4-Amino-3-chloro-phenoxy)pyridine-2-carboxamide
The title compound was prepared in the same manner described for 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide, substituting 4-amino-3-chlorophenol for 4-aminophenol, and substituting 4-chloro-2-pyridinecarboxamide for 4-chloropyridine-2-carboxylic acid methylamide. 1H-NMR (DMSO-d6) δ 8.45 (d, J=5.4 Hz, 1H), 8.08 (s, 1H), 7.67 (s, 1H), 7.32 (d, J=2.7 Hz, 1H), 7.15 (d, J=2.7 Hz, 1H), 7.09 (dd, J=2.7, 5.4 Hz, 1H), 6.93 to 6.84 (m, 2H), 5.44 (s, 2H); MS LC-MS (M+H)+=264.1, RT=2.40 min.

reactant | 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N | C13H13N3O2
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
reactant | 4-chloropyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)Cl | C7H7ClN2O
product | 4-(4-Amino-3-chloro-phenoxy)pyridine-2-carboxamide | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)N)C=C1)Cl | C12H10ClN3O2
